US03958974
Preparation of N-(3,4-Dimethoxyphenyl)-2-azetidinone
Sodium hydride (0.1 mole; 57% dispersion in mineral oil) is charged into a glass reaction flask. The mineral oil is removed by washing the sodium hydride with benzene, and dimethyl sulfoxide (50 ml) is thereafter slowly added with stirring. The mixture is stirred until no more hydrogen gas evolves. A solution of N-(3,4-dimethoxyphenyl)-β-chloropropionamide (0.08 mole) in carbon tetrachloride (50 ml) is added dropwise to the reaction flask with stirring while maintaining the temperature of the reaction mixture below about 30°C. After the addition is completed the reaction mixture is allowed to stand at room temperature for a period of about 8 hours. After this time benzene is added and the reaction mixture is washed with water and aqueous sodium bicarbonate. The washed mixture is then dried over anhydrous magnesium sulfate, is filtered, and is stripped of solvents under reduced pressure to yield the desired product N-(3,4-dimethoxyphenyl)-2-azetidinone as the residue.

reactant | Sodium hydride | 0.1 mole | [H-].[Na+]
reactant | N-(3,4-dimethoxyphenyl)-β-chloropropionamide | 0.08 mole | COC=1C=C(C=CC1OC)NC(CCCl)=O | C11H14ClNO3
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(3,4-dimethoxyphenyl)-2-azetidinone | COC=1C=C(C=CC1OC)N1C(CC1)=O | C11H13NO3
